US07642361B2
Trifluoro-methanesulfonic acid 4-cyclopentyl-phenyl ester
Add dry pyridine (1.4 mL, 17.3 mmol) to a solution of 4-cyclopentyl-phenol (1.0 g, 5.86 mmol) in 35 mL of CH2Cl2 and cool to −70° C. under nitrogen. Add trifluoro-methanesulfonic anhydride (1.2 mL, 7.13 mmol) dropwise and remove the cooling bath and allow the reaction to warm to room temperature. Ninety minutes later pour the mixture into 50 mL cold 1N HCl. Shake and separate the layers; wash with organics with ice-water (1×20 mL) and saturated aqueous NaHCO3 (1×20 mL) and dry over Na2SO4. Filter and evaporate to a brown oil, 1.8 g, which is used without further purification.

reactant | pyridine | 17.3 mmol, 1.4 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-cyclopentyl-phenol | 5.86 mmol, 1.0 g | C1(CCCC1)C1=CC=C(C=C1)O | C11H14O
reactant | trifluoro-methanesulfonic anhydride | 7.13 mmol, 1.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-cyclopentyl-phenyl ester | C1(CCCC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C12H13F3O3S
